US07618972B2
5-Chloro-pyrazine-2-carboxylic acid hydrazide
5-chloro-pyrazine-2-carboxylic acid methyl ester (10.02 g, 58.25 mmol) and hydrazine monohydrate (12.5 mL, 250 mmol) were dissolved in methanol (400 mL) and the reaction mixture heated to reflux for 48 hours. The reaction mixture was then filtered and the precipitate collected dried in vacuo to yield the title compound, 5.01 g (50%).

reactant | 5-chloro-pyrazine-2-carboxylic acid methyl ester | 58.25 mmol, 10.02 g | COC(=O)C1=NC=C(N=C1)Cl | C6H5ClN2O2
reactant | hydrazine monohydrate | 250 mmol, 12.5 mL | O.NN
solvent | methanol | 400 mL | CO | CH4O
product | 5-Chloro-pyrazine-2-carboxylic acid hydrazide | ClC=1N=CC(=NC1)C(=O)NN | C5H5ClN4O
